US07462624B2
Step E: 2-Bromo-4-pentyl-1,4-dihydro-5H-[1,2,4]triazolo[5,1-i]purin-5-one
To a mixture of 4-pentyl-1,4-dihydro-5H-[1,2,4]triazolo[5,1-i]purin-5-one (20 mg, 0.081 mmol) in THF (5 mL) was added N-bromosuccinimide (19 mg, 0.11 mol). The reaction mixture was stirred at room temperature for 1 hour and then quenched by phenol. After removing solvent, the residue was purified by preparative LCMS (method B) to yield the desired product. 1HNMR (400 MHz, CD3OD): δ 8.30 (s, 1H), 4.30 (t, J=7.4 Hz, 2H), 1.86 (m, 2H), 1.41 (m, 4H), 0.93 (t, J=7.0 Hz, 3H). LCMS calculated for C11H14BrN6O (M+H): 325.0; found: 325.0, 327.0.

reactant | 4-pentyl-1,4-dihydro-5H-[1,2,4]triazolo[5,1-i]purin-5-one | 0.081 mmol, 20 mg | C(CCCC)N1C(N2C(C=3NC=NC13)=NC=N2)=O | C11H14N6O
reactant | N-bromosuccinimide | 0.11 mol, 19 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-Bromo-4-pentyl-1,4-dihydro-5H-[1,2,4]triazolo[5,1-i]purin-5-one | BrC1=NC=2N(C(N3C(C2N1)=NC=N3)=O)CCCCC | C11H13BrN6O
